US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-N-[2-(1,1-dioxidothiomorpholin-4-yl)ethyl]-6-methylquinolin-4-amine
To a solution of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (150 mg, 0.40 mmol, prepared in analogy to the one in Example 2-1) in 1,4-dioxane (4 mL) was added tris(dibenzylideneacetone) dipalladium (0) (40 mg, 0.04 mmol), 1,1′-bis(diphenyphosphino)ferrocene (25 mg, 0.04 mmol), sodium tert-butoxide (77 mg, 0.80 mmol) and 2-(1,1-dioxidothio-morpholin-4-yl)ethanamine (107 mg, 0.60 mmol). The resulting mixture was evacuated and refilled with nitrogen, sealed and heated at 120° C. overnight. After being cooled to room temperature, the mixture was filtered and washed with ethyl acetate, the organic layers were combined and concentrated in vacuo, the residue was purified by flash chromatography (eluenting with 2% methanol in dichloromethane) to afford 67 mg of the title compound as a light solid (yield was 40%). MS obsd. (ESI+) [(M+H)+] 515, 1H NMR (400 MHz, CDCl3) 8.05 (d, J=7.6 Hz, 1 H), 7.66 (d, J=7.2 Hz, 1 H), 7.53-7.48 (m, 2 H), 7.37-7.28 (m, 2 H), 7.21 (s, 1 H), 5.88 (s, 1 H), 5.26 (m, 1 H), 5.12 (s, 1 H), 4.6 (brs, 1 H), 3.56 (m, 1 H), 3.33 (m, 2 H), 3.14 (m, 8 H), 2.99 (t, J=4.8 Hz, 2 H), 2.46 (s, 3 H), 2.0 (d, J=4.5 Hz, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | sodium tert-butoxide | 0.80 mmol, 77 mg | CC(C)([O-])C.[Na+]
reactant | 2-(1,1-dioxidothio-morpholin-4-yl)ethanamine | 0.60 mmol, 107 mg | O=S1(CCN(CC1)CCN)=O | C6H14N2O2S
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.04 mmol, 40 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | 1,1′-bis(diphenyphosphino)ferrocene | 0.04 mmol, 25 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-N-[2-(1,1-dioxidothiomorpholin-4-yl)ethyl]-6-methylquinolin-4-amine | 67 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCN2CCS(CC2)(=O)=O)C)=O | C25H30N4O4S2
